US07465746B2
Step 1: Methyl 4-methylene-2-phenylprolinate (1B-2)
An aqueous solution (300 mL) of phenyl glycine methyl ester-HCl (100 g) was neutralized to pH 8 with 10N NaOH. The aqueous solution was extracted with EtOAc (3×200 mL). The combined organic extracts were dried over MgSO4, filtered, and concentrated. The residue (56.7 g, 344 mmol) was dissolved in trimethylorthoformate (100 mL) and treated with benzaldehyde (34.9 mL, 36.4 g, 344 mmol). After stirring for 2 h, the reaction was diluted with Et2O (200 mL) and washed with water (3×50 mL). The organic solution was dried over MgSO4, filtered, and concentrated. A portion of the imine residue (26.8 g, 100 mmol) was dissolved in dichloromethane (240 mL) and treated with 160 mL of 10N NaOH, methallyl dichloride (50.0 g, 400 mmol), and Bu4NHSO4 (3.59 g). After stirring for 10 h at rt, the reaction was diluted with dichloromethane and the organic solution separated, dried over MgSO4, filtered, and concentrated. The residue was redissolved in Et2O/1N HCl (200 mL/200 mL) and stirred for 2 h. The aqueous phase was separated and neutralized with iON NaOH (to pH 8). The aqueous mixture was extracted with EtOAc (3×200 mL). The combined organic solutions were dried over MgSO4, filtered and concentrated. The residue was dissolved in water and neutralized (to pH 8). Extraction of this mixture with EtOAc (X 3) followed by drying over MgSO4, filtratration, and concentration provided crude 1B-2. Purification of this residue by flash chromatography (SiO2; 30% EtOAc/hexanes) provided pure 1B-2.

reactant | phenyl glycine methyl ester-HCl | 300 mL, 100 g | Cl.COC(CNC1=CC=CC=C1)=O
reactant | NaOH | 10N | [OH-].[Na+]
reactant | benzaldehyde | 344 mmol, 34.9 mL, 36.4 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | NaOH | 10N, 160 mL | [OH-].[Na+]
reactant | methallyl dichloride | 400 mmol, 50.0 g | C=C(CCl)CCl | C4H6Cl2
reactant | trimethylorthoformate | 100 mL | COC(OC)OC | C4H10O3
solvent | Et2O | 200 mL | CCOCC | C4H10O
solvent | dichloromethane | 240 mL | ClCCl | CH2Cl2
catalyst | Bu4NHSO4 | 3.59 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[O-]S(=O)(=O)O
product | Methyl 4-methylene-2-phenylprolinate | C=C1C[C@](NC1)(C(=O)OC)C1=CC=CC=C1 | C13H15NO2
